US04822787
To a suspension of sodium borohydride (3.05 g) in tetrahydrofuran (155 ml) was added boron trifluoride etherate (35.6 ml) in a nitrogen stream with stirring at 0°-5° C. for 30 minutes. The mixture was stirred at the same condition for 30 minutes. To the mixture was added a solution of (2S,4R)-1-benzyloxycarbonyl-2-(carbamoylmethyloxymethyl)-4-methanesulfonyloxypyrrolidine (15.5 g) in tetrahydrofuran (45 ml) at 0°-5° C. for 30 minutes. The reaction mixture was stirred at 0°-5° C. for 30 minutes and at ambient temperature overnight. Ethanol (46.5 ml) was added to the mixture below 10° C. After 2 hours, insoluble material was filtered off and the filtrate was concentrated under reduced pressure to give a residue. A solution of the residue in a mixture of concentrated hydrochloric acid (15.5 ml) and methanol (155 ml) was stirred at ambient temperature overnight. The mixture was concentrated under reduced pressure to give (2S,4R)-2-[(2-aminoethyl)oxymethyl]-1-benzyloxycarbonyl-4-methanesulfonyloxypyrrolidine. To a solution of the compound obtained above in a mixture of water (46.5 ml) and tetrahydrofuran (77.5 ml) was added a solution of potassium cyanate (16.3 g) in water (50 ml) at 40°-50° C., keeping the pH between 4-5 with concentrated hydrochloric acid. The mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give (2S,4R)-1-benzyloxycarbonyl-4-methanesulfonyloxy-2-[(2-ureidoethyl)oxymethyl]pyrrolidine (13.28 g).

reactant | sodium borohydride | 3.05 g | [BH4-].[Na+]
reactant | boron trifluoride etherate | 35.6 ml | B(F)(F)F.CCOCC
reactant | (2S,4R)-1-benzyloxycarbonyl-2-(carbamoylmethyloxymethyl)-4-methanesulfonyloxypyrrolidine | 15.5 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCC(N)=O | C16H22N2O7S
reactant | hydrochloric acid | 15.5 ml | Cl | ClH
solvent | tetrahydrofuran | 155 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | methanol | 155 ml | CO | CH4O
solvent | Ethanol | 46.5 ml | C(C)O | C2H6O
product | (2S,4R)-2-[(2-aminoethyl)oxymethyl]-1-benzyloxycarbonyl-4-methanesulfonyloxypyrrolidine | NCCOC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=CC=C1 | C16H24N2O6S
